US04611056
Synthesis of 5-Acetoxy-12H-benzo[a]phenothiazine-7-oxide
To a suspension of 5-acetoxy-12H-benzo[a]phenothiazine (10 g) in dichloromethane (125 cc) there was rapidly added a solution of 85% m-chloroperoxybenzoic acid (6.61 g) in methanol (125 ml). At first the solids dissolved, then after a few minutes a new solid separated out of solution. After 1 and 1/2 hours the mixture was filtered and the solid washed with dichloromethane. The title compound was thus obtained pure (8.76 g), m.p. 179°-181° C.

reactant | 5-acetoxy-12H-benzo[a]phenothiazine | 10 g | C(C)(=O)OC1=C2C(=C3NC4=CC=CC=C4SC3=C1)C=CC=C2 | C18H13NO2S
reactant | m-chloroperoxybenzoic acid | 6.61 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 125 cc | ClCCl | CH2Cl2
solvent | methanol | 125 ml | CO | CH4O
product | 5-Acetoxy-12H-benzo[a]phenothiazine-7-oxide | C(C)(=O)OC1=C2C(=C3NC4=CC=CC=C4S(C3=C1)=O)C=CC=C2 | C18H13NO3S
